US07691867B2
2-(4-amino-1H-pyrazol-1-yl)-N-(2,3-difluorophenyl)acetamide (504 mg, 2 mmol) was added to a solution of 7-(benzyloxy)-4-chloroquinazoline (541 mg, 2 mmol) in dimethylacetamide (10 ml) under argon. A solution of 4.0 N hydrochloric acid in dioxane (500 μl, 2 mmol) was added and the mixture was heated at 90° C. for 1.5 hours. The mixture was cooled, diluted with dichloromethane and the resultant precipitate recovered by filtration. The solid was washed with dichloromethane and diethyl ether and dried in vacuo to yield 2-(4-{[7-(benzyloxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(2,3-difluorophenyl)acetamide (850 mg, 81% yield):

reactant | 2-(4-amino-1H-pyrazol-1-yl)-N-(2,3-difluorophenyl)acetamide | 2 mmol, 504 mg | NC=1C=NN(C1)CC(=O)NC1=C(C(=CC=C1)F)F | C11H10F2N4O
reactant | 7-(benzyloxy)-4-chloroquinazoline | 2 mmol, 541 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)Cl | C15H11ClN2O
reactant | hydrochloric acid | 4.0 N | Cl | ClH
reactant | dioxane | 2 mmol, 500 μl | O1CCOCC1 | C4H8O2
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-{[7-(benzyloxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(2,3-difluorophenyl)acetamide | 850 mg, 81% yield | C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)NC1=C(C(=CC=C1)F)F | C26H20F2N6O2
